US07842688B2
g) Benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[3-oxo-4-(2-triisopropylsilanyloxyethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 1.34 g of benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate and 1.43 g of 6-chloromethyl-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.55 (1:1 EtOAc-heptane); Rt=7.03.

reactant | benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | 1.34 g | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)O)C=C(C=C1)F | C28H29F2NO5
reactant | 6-chloromethyl-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one | 1.43 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C1 | C20H32ClNO3Si
product | Benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-[3-oxo-4-(2-triisopropylsilanyloxyethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C2)C=C(C=C1)F | C48H60F2N2O8Si
